US07645789B2
A mixture of 1-methyl-2,4-dinitro-5-trifluoromethyl-benzene (2.0 g, 8.0 mmol) and DMA (1.0 g, 8.2 mmol) in DMF (20 mL) was stirred at 100° C. for 30 min. The mixture was poured into ice-water and stirred for 1 h. The precipitate was filtered and washed with water to give (E)-2-(2,4-dinitro-5-(trifluoromethyl)phenyl)-N,N-dimethylethenamine (2.1 g, 86%).

reactant | 1-methyl-2,4-dinitro-5-trifluoromethyl-benzene | 8.0 mmol, 2.0 g | CC1=C(C=C(C(=C1)C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C8H5F3N2O4
reactant | DMA | 8.2 mmol, 1.0 g | CC(=O)N(C)C | C4H9NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (E)-2-(2,4-dinitro-5-(trifluoromethyl)phenyl)-N,N-dimethylethenamine | 2.1 g, 86% | [N+](=O)([O-])C1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)/C=C/N(C)C | C11H10F3N3O4
